US04472435
A solution of 10 g (35.55 mmol) of 1,3-dihydro-7-nitro-5-phenyl-2H-1,4-benzodiazepin-2-one and 3.7 g (53.3 mmol) of hydroxylamine hydrochloride in 80 ml of pyridine is heated under reflux for 1 hour. After cooling, the mixture is taken up in methylene chloride, washed with water, dried and evaporated. The residual pyridine is removed in vacuo azeotropically with toluene. The solid crude product is suspended in hot tert.-butyl methyl ether and filtered off. There is obtained 2-amino-2'-[α-(hydroxyimino)-benzyl]-4'-nitro-acetanilide of melting point 167° (decomposition).

reactant | 1,3-dihydro-7-nitro-5-phenyl-2H-1,4-benzodiazepin-2-one | 35.55 mmol, 10 g | [N+](=O)([O-])C=1C=CC2=C(C(=NCC(N2)=O)C2=CC=CC=C2)C1 | C15H11N3O3
reactant | hydroxylamine hydrochloride | 53.3 mmol, 3.7 g | Cl.NO
solvent | pyridine | 80 ml | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2-amino-2'-[α-(hydroxyimino)-benzyl]-4'-nitro-acetanilide | NCC(=O)NC1=C(C=C(C=C1)[N+](=O)[O-])C(C1=CC=CC=C1)=NO | C15H14N4O4
